US05866592
Ethyl-N-(N-(4-(1-piperidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
The same procedure as in Example 45 was performed with ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate (1.4 g, 3.1 mmol) by using piperidine (3.1 ml) as an amine to yield the titled compound (487 mg, 30%).

reactant | ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 3.1 mmol, 1.4 g | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C#N)F)=O)CC)(C)C)=O)=O | C24H32FN3O4
reactant | piperidine | 3.1 ml | N1CCCCC1 | C5H11N
product | Ethyl-N-(N-(4-(1-piperidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 487 mg, 30% | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C(=N)N1CCCCC1)F)=O)CC)(C)C)=O)=O | C29H43FN4O4
